US08729081B2
3-(azepan-1-yl)-N-benzyl-N-methylpropan-1-amine (A-2-1)
To a mixture of 3-(Azepan-1-yl)propan-1-amine (0.10 g, 0.64 mmole) in methylene chloride (5 mL) were added benzaldehyde (0.64 mmole) and NaBH(OAc)3 (0.63 g, 3.0 mmol). The reaction solution was stirred at room temperature for 3 h. Then, paraformaldehyde (200 mg) was added to the reaction mixture and stirring was continued for 6 h. 2N aqueous NaOH (2 mL) was added to quench the reaction, followed by addition of methylene chloride (30 mL). The organic layer was separated, dried over anhydrous Na2SO4, and filtered. The filtrate was evaporated to supply 3-(azepan-1-yl)-N-benzyl-N-methylpropan-1-amine (151 mg).

reactant | 3-(Azepan-1-yl)propan-1-amine | 0.64 mmole, 0.10 g | N1(CCCCCC1)CCCN | C9H20N2
reactant | benzaldehyde | 0.64 mmole | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH(OAc)3 | 3.0 mmol, 0.63 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | paraformaldehyde | 200 mg | C=O | CH2O
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(azepan-1-yl)-N-benzyl-N-methylpropan-1-amine | N1(CCCCCC1)CCCN(C)CC1=CC=CC=C1 | C17H28N2
